US07645771B2
To a solution of cyclohexyl(4-(3-fluorophenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}piperidin-1-yl)acetic acid (22.0 mg, 0.037 mmol), methylamine (0.056 mL of a 2M solution in THF, 0.11 mmol), N-hydroxybenzotriazole (10.1 mg, 0.075 mmol) and N-methylmorpholine (0.10 mL, 0.094 mmol) in 1 mL DMF was added EDC (14 mg, 0.075 mmol). The reaction mixture was stirred for 24 h, then diluted with 4:1 EtOAc:hex and washed with saturated aqueous NaHCO3, dried (Na2SO4) and chromatographed (5% (2M NH3/MeOH) in CHCl3) to provide 2-cyclohexyl-2-(4-(3-fluorophenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}piperidin-1-yl)-N-methylacetamide (8.1 mg, 36%) as a solid. 1H NMR (400 MHz, CDCl3), δ 7.66 (m, 1H), 7.33-7.27 (m, 2H), 7.20-7.11 (m, 2H), 7.05 (m, 1H), 6.98 (m, 1H), 6.90 (m, 1H), 4.64 (m, 1H), 3.33-3.20 (m, 2H), 2.80 (d, 3H, J=4.9 Hz), 2.59 (s, 3H), 2.47-0.79 (m, 27H); ESI-MS 600 (M+H).

reactant | cyclohexyl(4-(3-fluorophenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}piperidin-1-yl)acetic acid | 0.037 mmol, 22.0 mg | C1(CCCCC1)C(C(=O)O)N1CCC(CC1)(CCN1[C@H]2CC(C[C@@H]1CC2)N2C(=NC1=C2C=CC=C1)C)C1=CC(=CC=C1)F | C36H47FN4O2
reactant | methylamine | CN | CH5N
reactant | N-hydroxybenzotriazole | 0.075 mmol, 10.1 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-methylmorpholine | 0.094 mmol, 0.10 mL | CN1CCOCC1 | C5H11NO
reactant | EDC | 0.075 mmol, 14 mg
solvent | THF | C1CCOC1 | C4H8O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-cyclohexyl-2-(4-(3-fluorophenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}piperidin-1-yl)-N-methylacetamide | 8.1 mg, 36% | C1(CCCCC1)C(C(=O)NC)N1CCC(CC1)(CCN1[C@H]2CC(C[C@@H]1CC2)N2C(=NC1=C2C=CC=C1)C)C1=CC(=CC=C1)F | C37H50FN5O
